US04777263
2-Methyl-3-(2-naphthalenyl)-5-(2-trans-phenylethenyl)-3-(1H-1,2,4-triazol-1-ylmethyl)isoxazolidine (3f) (R=CH=CHC6H5, X=N)
A mixture of 2-(1H-1,2,4-triazol-1-yl)-N-methyl-1-(2-naphthalenyl)ethanimine N-oxide (15.0 g, 0.056 mol) and trans-1-phenyl-1,3-butadiene (11.0 g, 0.084 mol) in 500 ml toluene is heated to 95°-105° C. for 48 hours, then cooled and evaporated to dryness. The resulting oil is decolorized with carbon and purified by flash chromatography on silica gel (eluent comprised of 90% ethyl acetate and 10% hexane by volume) giving two diastereomers. Isomer A (5.66 g) has a melting point of 80°-84° C. (ethyl acetate-pentane). Isomer B (1.64 g) has a melting point 157°-160° C.

reactant | 2-(1H-1,2,4-triazol-1-yl)-N-methyl-1-(2-naphthalenyl)ethanimine N-oxide | 0.056 mol, 15.0 g | N1(N=CN=C1)CC(=[N+](C)[O-])C1=CC2=CC=CC=C2C=C1 | C15H14N4O
reactant | trans-1-phenyl-1,3-butadiene | 0.084 mol, 11.0 g | C1(=CC=CC=C1)\C=C\C=C | C10H10
reactant | ethyl acetate pentane | C(C)(=O)OCC.CCCCC
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-3-(2-naphthalenyl)-5-(2-trans-phenylethenyl)-3-(1H-1,2,4-triazol-1-ylmethyl)isoxazolidine | CN1OC(CC1(CN1N=CN=C1)C1=CC2=CC=CC=C2C=C1)\C=C\C1=CC=CC=C1 | C25H24N4O
